US07781454B2
Step 6: 3-Chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile
tert-Butyl 3-{[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (0.001 g, 1.86 μmol) was dissolved in TFA (2 mL) at room temperature. After 5 minutes, the solvent was evaporated in vacuo to afford the title product.

reactant | tert-Butyl 3-{[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 1.86 μmol, 0.001 g | ClC1=C(C2=C(N(N=N2)CC2=NN(C3=NC=CC=C32)C(=O)OC(C)(C)C)C=C1)OC1=CC(=CC(=C1)C#N)Cl | C25H19Cl2N7O3
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-Chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2N(N=NC21)CC2=NNC1=NC=CC=C12)Cl | C20H11Cl2N7O
